US07534880B2
4. Preparation of 1-{4-[4-(2-bromo-2-methyl-propionyl)-phenylsulphanyl]-phenyl}-2-methyl-2-morpholin-4-yl-propan-1-one
4.30 (32.20 mol) of AlCl3 were added in portion under stirring to a solution of 2.5 g (7.32 mmol) of 2-methyl-2-morpholin yl-1-(4-phenylsulphanyl-phenyl)-propan-1-one and 1.81 g (7.69 mmol) of α-bromoisobutyrylbromide (97.5% w/w) in 50 ml of dichloromethane, between 0 e 5° C. At the end of the addition the temperature was brought to 25° C. then, after 2.5 h, the reaction was quenched in 200 ml of iced water. The organic phase was separated and washed with water and 5% NaOH then dried with sodium sulphate, filtered and evaporated obtaining 3.59 g of product as a reddish oil.

reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-methyl-2-morpholin yl-1-(4-phenylsulphanyl-phenyl)-propan-1-one | 7.32 mmol, 2.5 g | CC(C(=O)C1=CC=C(C=C1)SC1=CC=CC=C1)(C)N1CCOCC1 | C20H23NO2S
reactant | α-bromoisobutyrylbromide | 7.69 mmol, 1.81 g | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-{4-[4-(2-bromo-2-methyl-propionyl)-phenylsulphanyl]-phenyl}-2-methyl-2-morpholin-4-yl-propan-1-one | 3.59 g | BrC(C(=O)C1=CC=C(C=C1)SC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O)(C)C | C24H28BrNO3S
